US05066680
A solution of 2-chloro-2-cyclohexyl-2-phenylacetyl chloride (9.0 g) in methylene chloride (50 ml) was added dropwise to a solution of 4-amino-2-butyn-1-ol hydrochloride (5.38 g) and triethylamine (30.8 ml) in methylene chloride (120 ml) at 0° C. The mixture was stirred at the same temperature for 10 minutes and then at room temperature for an additional 3.5 hours and 1N hydrochloric acid was added thereto. The organic layer was separated, washed with saturated sodium bicarbonate, aqueous solution, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of chloroform and ethyl acetate (6:1) as an eluent to give N-(4-hydroxy-2-butynyl)-2-chloro-2-cyclohexyl-2-phenylacetamide (7.32 g).

reactant | 2-chloro-2-cyclohexyl-2-phenylacetyl chloride | 9.0 g | ClC(C(=O)Cl)(C1=CC=CC=C1)C1CCCCC1 | C14H16Cl2O
reactant | 4-amino-2-butyn-1-ol hydrochloride | 5.38 g | Cl.NCC#CCO
reactant | triethylamine | 30.8 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | N-(4-hydroxy-2-butynyl)-2-chloro-2-cyclohexyl-2-phenylacetamide | 7.32 g | OCC#CCNC(C(C1=CC=CC=C1)(C1CCCCC1)Cl)=O | C18H22ClNO2
